US04666923
(e) 6-Acetamido-3-isopropylideneindolin-2-one
A solution of 1.9 g. sodium hydroxide in 2 ml. water is added dropwise to a suspension of 9 g. (0.047 mol) 6-acetamidoindolin-2-one in 50 ml. ethanol containing 3.4 g. (0.047 mol) isobutyraldehyde. After about 5 hours, the reaction mixture is evaporated to dryness and the residue is purified on silica gel (elution agent: methylene chloride/ammonia-saturated methanol). Yield: 7.6 g. (65% of theory) of foam; m.p. 93° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | 6-acetamidoindolin-2-one | 0.047 mol | C(C)(=O)NC1=CC=C2CC(NC2=C1)=O | C10H10N2O2
reactant | isobutyraldehyde | 0.047 mol | C(C(C)C)=O | C4H8O
solvent | ethanol | 3.4 g | C(C)O | C2H6O
product | 6-Acetamido-3-isopropylideneindolin-2-one | C(C)(=O)NC1=CC=C2C(C(NC2=C1)=O)=C(C)C | C13H14N2O2
